US07572811B2
tert-Butyl 4-(6-hydroxymethyl-pyridin-3-yl)-piperazine-1-carboxylate (0.22 mmol), 4-Cyclohexyl-3-trifluoromethyl-phenol (0.22 mmol, synthesized in a similar manner as described in a previous example), 1,1′-azodicarbonyl dipiperdine (0.33 mmol) and Ph3P (0.33 mmol) are mixed in DCM (2 mL). The reaction mixture is stirred at room temperature for 17 h and then partitioned between saturated Na2CO3 solution and EtOAc. The aqueous phase is extracted with EtOAc. The combined organic extracts are washed with saturated aqueous NaCl and dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (6:5 hexanes/EtOAc) to give tert-butyl 4-[6-(4-cyclohexyl-3-trifluoromethyl-phenoxymethyl)-pyridin-3-yl]-piperazine-1-carboxylate.

reactant | tert-Butyl 4-(6-hydroxymethyl-pyridin-3-yl)-piperazine-1-carboxylate | 0.22 mmol | OCC1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O3
reactant | 4-Cyclohexyl-3-trifluoromethyl-phenol | C1(CCCCC1)C1=C(C=C(C=C1)O)C(F)(F)F | C13H15F3O
reactant | 1,1′-azodicarbonyl dipiperdine | 0.33 mmol | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | Ph3P | 0.33 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-[6-(4-cyclohexyl-3-trifluoromethyl-phenoxymethyl)-pyridin-3-yl]-piperazine-1-carboxylate | C1(CCCCC1)C1=C(C=C(OCC2=CC=C(C=N2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C(F)(F)F | C28H36F3N3O3
